US08669234B2
4-Hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester:
4-Methylene-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (4.48 g, 19.71 mmol) was dissolved in THF (100 mL) and the stirred solution was cooled to 0° C. Borane-dimethylsulfide complex (1.9 mL, 19.7 mmol) was added and the reaction mixture was allowed to warm to RT o/n. After 16 h, water was added dropwise until no bubbling was observed. The stirred mixture was then cooled to 0° C. Aqueous NaOH (5M in H2O, 5.3 mL, 26.6 mmol), then H2O2 (30 wt % in H2O, 6.0 mL, 58.5 mmol) were added dropwise. The reaction was then warmed to 50° C. After 30 min, the mixture was diluted with ethyl ether and washed with water and brine. The organic phase was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (25% to 75% EtOAc/Hex) to afford the title compound (2.08 g, 41%).

reactant | 4-Methylene-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 19.71 mmol, 4.48 g | COC(=O)C1N(CC(C1)=C)C(=O)OC(C)(C)C | C12H19NO4
reactant | water | O | H2O
reactant | NaOH | 26.6 mmol, 5M, 5.3 mL | [OH-].[Na+]
reactant | H2O2 | 58.5 mmol, 6.0 mL | OO | H2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-Hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.08 g, 41% | COC(=O)C1N(CC(C1)CO)C(=O)OC(C)(C)C | C12H21NO5
